US08039469B2
A mixture of iron powder (0.071 g, 1.27 mmoles) in acetic acid (2 ml) was heated to 55° C. for 15 minutes. Water (2 ml) was then added and oil bath was turned off. A solution of 8-(4-(3,6-dihydro-2H-pyran-4-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane (0.100 g, 0.253 mmol) in ethyl acetate (2 ml) was then added to this warm solution over 5 minutes. The mixture was cooled to RT and allowed to stir for 16 hours. The mixture was extracted with ethyl acetate by decantation (4×) into a sep. funnel containing saturated aqueous sodium carbonate. The combined organic extracts were washed with water, brine, dried, and concentrated to provide 4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-(3,6-dihydro-2H-pyran-4-yl)-1,3,5-triazin-2-yl)aniline (0.068 g, 74%), which was used in the next step without purification. (M+H) 366.4.

reactant | Water | 2 ml | O | H2O
reactant | 8-(4-(3,6-dihydro-2H-pyran-4-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 0.253 mmol, 0.100 g | O1CCC(=CC1)C1=NC(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1C2COCC1CC2 | C20H21N5O4
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 1.27 mmoles, 0.071 g | [Fe] | Fe
product | 4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-(3,6-dihydro-2H-pyran-4-yl)-1,3,5-triazin-2-yl)aniline | 0.068 g, 74% | C12COCC(CC1)N2C2=NC(=NC(=N2)C=2CCOCC2)C2=CC=C(N)C=C2 | C20H23N5O2
